US07705042B2
c) Acetic acid {4-[(5-cyano-furan-2-carbonyl)-amino]-3-piperidin-1-yl-phenylcarbamoyl}-methyl ester
Using a procedure similar to Example 4, step (c), acetic acid (4-amino-3-piperidin-1-yl-phenylcarbamoyl)-methyl ester (80 mg, 0.27 mmol) was allowed to react with 5-cyano-furan-2-carbonyl chloride (42 mg, 0.27 mmol) in the presence of DIEA (0.10 mL, 0.59 mmol) to afford 22 mg (20%) of the title compound as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 9.66 (s, 1H), 8.40 (d, 1H, J=9.0 Hz), 7.73-7.76 (m, 2H), 7.27-7.28 (m, 1H), 7.22 (d, 1H, J=2.7 Hz), 7.08 (dd, 1H, J=2.3, 8.7 Hz), 4.68 (s, 2H), 2.84-2.86 (m, 4H), 2.24 (s, 3H), 1.82-1.84 (m, 4H), 1.68 (br s, 2H); Mass spectrum (ESI, m/z): Calcd. for C21H22N4O5, 411.1 (M+H), found 411.1.

reactant | acetic acid (4-amino-3-piperidin-1-yl-phenylcarbamoyl)-methyl ester | 0.27 mmol, 80 mg | NC1=C(C=C(C=C1)NC(=O)COC(C)=O)N1CCCCC1 | C15H21N3O3
reactant | 5-cyano-furan-2-carbonyl chloride | 0.27 mmol, 42 mg | C(#N)C1=CC=C(O1)C(=O)Cl | C6H2ClNO2
reactant | DIEA | 0.59 mmol, 0.10 mL | CCN(C(C)C)C(C)C | C8H19N
product | Acetic acid {4-[(5-cyano-furan-2-carbonyl)-amino]-3-piperidin-1-yl-phenylcarbamoyl}-methyl ester | 22 mg, 20% | C(#N)C1=CC=C(O1)C(=O)NC1=C(C=C(C=C1)NC(=O)COC(C)=O)N1CCCCC1 | C21H22N4O5
